US04098825
To 100 ml of anhydrous methanol was added 20 g (0.073 mole) of 3-ethynylphenyl(p-toluenesulfonate) and 8.19 g (0.146 mole) of potassium hydroxide. The mixture was heated to reflux under a nitrogen atmosphere and maintained at reflux for 4 hours. A distillation apparatus was attached to the flask, and methanol was distilled from the flask until the residue approached dryness. Then, 400 ml of anhydrous benzene was added, and distillation was continued until 200 ml of benzene was removed. The reaction mixture was freeze dried under reduced pressure, leaving a dry, white powder. The white powder was dissolved in 150 ml of dimethylsulfoxide and transferred to an addition funnel under nitrogen. The solution was added over a 60 minute period to a solution of 4-nitrobenzil (18.6 g, 0.073 mole) in dimethylsulfoxide (300 ml) and stirred at 90° C under nitrogen. When addition was completed, the reaction mixture was stirred overnight at 23° C and poured into a solution of sodium hydroxide (50 g) in ice water (1 liter). Extraction with toluene (3×50 ml) followed by chromatography on silica gel with benzene as eluent gave 15.4 g (65% yield) of 4-(3-ethynylphenoxy)benzil as a yellow oil which solidified upon standing overnight at 23° C into a pale yellow solid (m.p. 79°-81° C).

reactant | 3-ethynylphenyl(p-toluenesulfonate) | 0.073 mole, 20 g | C(#C)C=1C=C(C=CC1)C1=C(C=CC(=C1)S(=O)(=O)[O-])C
reactant | potassium hydroxide | 0.146 mole, 8.19 g | [OH-].[K+]
reactant | 4-nitrobenzil | 0.073 mole, 18.6 g | [N+](=O)([O-])C1=CC=C(C=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H9NO4
reactant | sodium hydroxide | 50 g | [OH-].[Na+]
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 300 ml | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 4-(3-ethynylphenoxy)benzil | 15.4 g, 65% yield | C(#C)C=1C=C(OC2=CC=C(C=C2)C(=O)C(=O)C2=CC=CC=C2)C=CC1 | C22H14O3
